US07820654B2
Step (ii). Synthesis of (6-chloro-2-phenyl-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine
(6-Chloro-2-phenyl-pyrimidin-4-yl)-(4-methylsulfanyl-phenyl)-amine (1 g, 3.03 mmol) was treated with oxone in acetone-water at temperature in the range of 20-40° C. for 1 hour to yield the desired compound.

reactant | (6-Chloro-2-phenyl-pyrimidin-4-yl)-(4-methylsulfanyl-phenyl)-amine | 3.03 mmol, 1 g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC1=CC=C(C=C1)SC | C17H14ClN3S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | acetone water | CC(=O)C.O
product | (6-chloro-2-phenyl-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC1=CC=C(C=C1)S(=O)(=O)C | C17H14ClN3O2S
